US05073574
420 mg of tetrazole, 553 mg of potassium carbonate and 53 mg of potassium iodide are added to a solution of 985 mg of 1-cyano-4-bromomethyl-naphthalene in 20 ml acetone, and the mixture is stirred for 3.5 hours at 45°. After the reaction mixture has cooled, the solvent is distilled off and the residue is dissolved in methylene chloride. The organic solution is washed with water and brine, then dried over sodium sulfate and concentrated. Separation by column chromatography yields first, by elution with toluene/ethyl acetate (9:1), 1-cyano-4-(2-tetrazolyl)methyl-naphthalene, m.p. 124°, [IR(CH2Cl2): 3052, 2225, 1592, 1516 cm-1, 1H-NMR (DMSO-d6): δ=6.62 (2H, s), 7.6 and 8.2 (2H, m), 7.83 (2H, m), 8.2 and 8.33 (2H, m), 9.02 (1H, s) ppm] and then, with toluene/ethyl acetate (3:1), 1-cyano- 4-(1-tetrazolyl)methylnaphthalene, m.p. 171° [IR(CH2Cl2): 3050, 2227, 1516, 1482 cm-1 ; 1H-NMR (DMSO-d6): δ=6.36 (2H, s), 7.5 and 8.2 (2H, m), 7.85 (2H, m), 8.2 and 8.37 (2H, m), 9.6 (1H, s) ppm.

reactant | tetrazole | 420 mg | N1N=NN=C1 | CH2N4
reactant | potassium carbonate | 553 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 53 mg | [I-].[K+]
reactant | 1-cyano-4-bromomethyl-naphthalene | 985 mg | C(#N)C1=CC=C(C2=CC=CC=C12)CBr | C12H8BrN
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-cyano-4-(2-tetrazolyl)methyl-naphthalene | C(#N)C1=CC=C(C2=CC=CC=C12)CN1N=CN=N1 | C13H9N5
